US04619941
5-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]-1H-indole-2-carboxamide
A mixture of 0.90 g of 5-chloroindole-2-carboxylic acid and 0.74 g of 1,1'-carbonyldiimidazole in 25 ml of tetrahydrofuran was stirred at room temperature for 3 hours. Then 0.70 g of 1H-imidazole-1-pentanamine in 25 ml of tetrahydrofuran was added and stirring was continued for 16 hours. The mixture was heated at reflux for 5 hours, 5 ml of water was added and heating was continued for one hour longer. The mixture was concentrated, then one ml of 5N sodium hydroxide and about 25 ml of dichloromethane was added with shaking. The organic layer was separated and filtered and gave 1.2 g of the compound of the Example as white crystals, mp 214°-216° C.

reactant | 5-chloroindole-2-carboxylic acid | 0.90 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1,1'-carbonyldiimidazole | 0.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1H-imidazole-1-pentanamine | 0.70 g | N1(C=NC=C1)CCCCCN | C8H15N3
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-Chloro-N-[5-(1H-imidazol-1-yl)pentyl]-1H-indole-2-carboxamide | 1.2 g | ClC=1C=C2C=C(NC2=CC1)C(=O)NCCCCCN1C=NC=C1 | C17H19ClN4O
